US09290485B2
To a solution of 1-((1-Methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)methyl)-1H-pyrazole-4-carboxylic acid (130 mg, 0.330 mmol, 65%), tert-Butyl 5-(aminomethyl)-4,6-dimethylpyridin-2-ylcarbamate (99 mg, 0.396 mmol) and DIPEA (0.308 ml, 1.764 mmol) in DCM (4 ml) Propanephosphonic anhydride (50% in EA (0.156 ml, 0.529 mmol) was added at rt. The reaction mixture was stirred at it for 1 h. The reaction mixture was quenched with 1 N NaOH and extracted twice with DCM. The combined organic layers were dried over Na2SO4, filtered and concentrated under vacuum. The crude product was purified by flash-chromatography on silica gel (26 g), gradient of DCM/DCM:MeOH 8:2 (40 ml/min.) from 100/0 (5 min.) to 80/20 (20 min.) to 80/20 5 min. to afford tert-Butyl 5-((1-((1,2-dimethyl-1H-indol-5-yl)methyl)-1H-pyrazole-4-carboxamido)methyl)-4,6-dimethylpyridin-2-ylcarbamate. MS (Method V) [M+H]+=503.4.

reactant | 1-((1-Methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)methyl)-1H-pyrazole-4-carboxylic acid | 0.330 mmol, 130 mg | CN1C=CC=2C1=NC=C(C2)CN2N=CC(=C2)C(=O)O | C13H12N4O2
reactant | tert-Butyl 5-(aminomethyl)-4,6-dimethylpyridin-2-ylcarbamate | 0.396 mmol, 99 mg | NCC=1C(=CC(=NC1C)NC(OC(C)(C)C)=O)C | C13H21N3O2
reactant | DIPEA | 1.764 mmol, 0.308 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | EA | 0.529 mmol, 0.156 ml | CC(OCC)=O | C4H8O2
solvent | DCM | 4 ml | C(Cl)Cl | CH2Cl2
product | tert-Butyl 5-((1-((1,2-dimethyl-1H-indol-5-yl)methyl)-1H-pyrazole-4-carboxamido)methyl)-4,6-dimethylpyridin-2-ylcarbamate | CN1C(=CC2=CC(=CC=C12)CN1N=CC(=C1)C(=O)NCC=1C(=CC(=NC1C)NC(OC(C)(C)C)=O)C)C | C28H34N6O3
